US05212182
N-[1-(Phenylmethyl)-4-piperidinyl]-4-[(4-quinolinylmethyl)amino]benzamide
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.62 g, 18.9 mmol), 1-hydroxybenzotriazole hydrate (2.43 g, 18.0 mmol), and 4-[(4-quinolinylmethyl)amino]benzoic acid (5.00 g, 18.0 mmol) were placed in a flask under nitrogen. N,N-Dimethylformamide (83 mL) was then added followed by triethylamine (4.5 g, 45 mmol, 6.3 mL) and finally 4-amino-1-benzylpiperidine (3.1 g, 3.3 mL, 16 mmol). The mixture was heated at 100° C. for 45 minutes and the N,N-dimethylformamide was then removed under reduced pressure. The resulting viscous orange oil was triturated overnight with a mixture of 75 mL of water and 50 mL of ethyl acetate with vigorous overhead stirring. The resulting solid was filtered, washed with water and dried under reduced pressure at 60° C. for 25 hours. Flash chromatography on silica gel (65 mm column, 5% ammonia saturated methanol in methylene chloride eluent) afforded fractions containing the product which were concentrated to the point where a white powder formed. The powder was filtered and washed with a small amount of methanol and then ether. Drying under reduced pressure at 60° C. for 19.5 hours afforded 3.65 g (8.1 mmol, 50% yield) of the title compound, m.p. 184°-188° C.

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 18.9 mmol, 3.62 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 18.0 mmol, 2.43 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-[(4-quinolinylmethyl)amino]benzoic acid | 18.0 mmol, 5.00 g | N1=CC=C(C2=CC=CC=C12)CNC1=CC=C(C(=O)O)C=C1 | C17H14N2O2
reactant | triethylamine | 45 mmol, 6.3 mL, 4.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-amino-1-benzylpiperidine | 16 mmol, 3.3 mL, 3.1 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
solvent | N,N-Dimethylformamide | 83 mL | CN(C=O)C | C3H7NO
product | N-[1-(Phenylmethyl)-4-piperidinyl]-4-[(4-quinolinylmethyl)amino]benzamide | 8.1 mmol, 3.65 g, 50% yield | C1(=CC=CC=C1)CN1CCC(CC1)NC(C1=CC=C(C=C1)NCC1=CC=NC2=CC=CC=C12)=O | C29H30N4O
